US08309542B2
(b) (RS)-6,7-Dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine
A mixture of 7.2 g (24 mmol) 6,7-dimethyl-4,5-dihydro-thieno[2,3-c]pyridinium iodide and 80 ml of methanol is mixed batchwise 1.87 g (49 mmol) NaBH4 while cooling with an ice bath (vigorous release of gas). The mixture is stirred for another 1.5 h, concentrated, mixed with sat. NaHCO3 solution and extracted 3× with methylene chloride. The organic phases are dried on NaSO4, filtered and concentrated.

reactant | 6,7-dimethyl-4,5-dihydro-thieno[2,3-c]pyridinium iodide | 24 mmol, 7.2 g | [I-].C[N+]1=C(C2=C(CC1)C=CS2)C
reactant | NaBH4 | 49 mmol, 1.87 g | [BH4-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | (RS)-6,7-Dimethyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | CN1C(C2=C(CC1)C=CS2)C | C9H13NS
